US07265104B2
To a solution of 5-amino-2-methoxypyridine (747 mg, 6.02 mmol) in CH2Cl2 (50 mL) was added acetone (500 μL) and sodium triacetoxyborohydride (1.95 g, 9.20 mmol). The reaction was stirred at room temperature for 20 hours and was diluted with aqueous NaHCO3. The aqueous solution was washed with CH2Cl2 (3×) and the combined organic solutions were washed with brine (1×), dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with a solvent gradient (5% EtOAc in hexanes to 50% EtOAc in hexanes) to provide 810 mg of isopropyl-(6-methoxy-pyridin-3-yl)-amine. 1H NMR (CDCl3) δ 7.55 (s, 1H), 6.96 (dd, 1H), 6.61 (d, 1H), 3.86 (s, 3H), 3.52 (m, 1H), 1.19 (d, 6H).

reactant | 5-amino-2-methoxypyridine | 6.02 mmol, 747 mg | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | acetone | 500 μL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 9.20 mmol, 1.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | isopropyl-(6-methoxy-pyridin-3-yl)-amine | 810 mg | C(C)(C)NC=1C=NC(=CC1)OC | C9H14N2O
